Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 ___ yo M HIV (CD4 390, VL UD ___, hep C cirrhosis, hep B 
presents with HA, neck stiffness for the past 2 wks. He's had 
fevers over past day up to 102. Also c/o sore throat, 
non-productive cough, myalgias, chest congestion, chills, 
nausea, abdominal discomfort for the past 2 days. He also has 
noted increased forgetfulness, and ataxic gait with dizziness. 
Has had decreased po's. no sick contacts. No dysuria or urinary 
frequency. No diarrhea. Had head CT yesterday which was 
negative.  
.  
In the ED, VS: t99.5, tm 100.9, p70-80s, 100-110s, 99%RA. CXR 
negataive. Pt had an LP which was negative. He was given CXT 2gm 
IV, morphine, tylenol. Found to be Influenza B positive  

 
Past Medical History:
HIV positive since ___ (CD4 390, VL undetectable ___  
diabetes type 2  
HBV  
HCV with liver cirrhosis,  
MRSA abscesses  
anemia.  

 
Social History:
___
Family History:
nc
 
Physical Exam:
Temp 100, VSS
Gen -- pleasant, ambulatory, NAD
HEENT -- glasses, otherwise unremarkable
Heart -- regular
Lungs -- clear
Abd -- soft, benign
Ext -- no edema, rash or lesion
Neuro -- grossly intact, ambulates with normal gait

 
Pertinent Results:
___ 07:25AM BLOOD WBC-3.1* RBC-4.07* Hgb-12.8* Hct-38.1* 
MCV-94 MCH-31.5 MCHC-33.6 RDW-14.7 Plt ___
___ 09:00AM BLOOD ___ PTT-30.0 ___
___ 07:25AM BLOOD Glucose-103 UreaN-9 Creat-1.0 Na-135 
K-3.8 Cl-104 HCO3-26 AnGap-9
___ 07:25AM BLOOD ALT-55* AST-100* AlkPhos-214* TotBili-0.5
___ 07:25AM BLOOD Mg-1.8
___ 09:13AM BLOOD Lactate-1.3
___ 01:40PM CEREBROSPINAL FLUID (CSF) WBC-0 RBC-0 Polys-0 
___ ___ 01:40PM CEREBROSPINAL FLUID (CSF) TotProt-24 Glucose-72

Test Name                        Result           Reference 
Range
---------                        ------           
---------------
Herpes Simplex Virus ___ Detection and Diff, PCR
   HSV 1 DNA                   Not Detected        Not Detected
   HSV 2 DNA                   Not Detected        Not Detected

   DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Negative for Influenza A viral antigen. 

   DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      POSITIVE FOR INFLUENZA B VIRAL ANTIGEN. 
      REPORTED BY PHONE TO ___ ON ___ AT 16:11. 

CRYPTOCOCCAL ANTIGEN (Final ___: 
      CRYPTOCOCCAL ANTIGEN NOT DETECTED. 

___ 1:40 pm CSF;SPINAL FLUID

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH.

CT HEAD W/ & W/O CONTRAST

Reason: bleed, mass, stroke 
Contrast: OPTIRAY

UNDERLYING MEDICAL CONDITION:
___ year old man with chronic hep C and HIV with new headache, 
confusion and gait ataxia 
REASON FOR THIS EXAMINATION:
bleed, mass, stroke 
CONTRAINDICATIONS for IV CONTRAST: None.

INDICATION: Chronic hepatitis C and HIV with headache.

COMPARISON: None.

TECHNIQUE: Non-contrast and contrast-enhanced axial CT of the 
head.

FINDINGS: There is no intracranial hemorrhage, mass effect, or 
shift of normally midline structures. The ventricles, cisterns, 
and sulci maintain a normal configuration. The gray-white matter 
differentiation is preserved without evidence for a large 
territorial infarction. The brain enhances normally without 
abnormal mass or fluid collection. The major intracranial 
vessels opacify normally. The osseous structures are 
unremarkable. The visualized paranasal sinuses are clear. The 
mastoid air cells are clear. Incidental note was made of a right 
concha bullosa.

IMPRESSION: No evidence for hemorrhage, mass effect, or abnormal 
enhancement. MR is more sensitive for meningitis.

CHEST (PA & LAT)

Reason: r/o consolidation, infiltrates, effusions 

UNDERLYING MEDICAL CONDITION:
___ year old man with HIV (CD4 390, VL UD ___, hep C cirrhosis 
p/w fevers, cough, HA. 
REASON FOR THIS EXAMINATION:
r/o consolidation, infiltrates, effusions 
INDICATION: Fevers and cough and headache.

COMPARISON: None available. 

CHEST, TWO VIEWS: Heart size, mediastinal and hilar contours are 
normal. There is no focal airspace opacification but there is 
linear atelectasis in the right upper lobe. There is no 
pneumothorax or pleural effusion. Pulmonary vasculature is 
normal. No gross osseous abnormality.

IMPRESSION: No acute cardiopulmonary process.

 
Brief Hospital Course:
1. influenza B -- Initiated treatment with tamiflu during 
hospital stay.  No other source of infection identified with 
CSF, CXR, CT head, blood and urine cultures.  As he was able to 
eat a regular diet, he was discharged home.  There was some 
difficulty for him to fill his tamiflu after discharge, so I am 
unsure if he was able to finish the last three days.  He was 
clinically stable, however, and I do not think it will change 
his course of illness.

2. headache -- Further history reveals the onset of his symptoms 
after lifting an armoir.  His pain is likely musculoskeletal, 
and we discussed using heat and ice packs as well as tylenol for 
relief.  If the pain does not improve over the next days to 
weeks, he should follow up with his primary physician for more 
evaluation.

3. HIV -- continued Atripla.
 
Medications on Admission:
Atipla
Lactulose

 
Discharge Medications:
1. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day).  
2. Oseltamivir Phosphate 75 mg Capsule Sig: One (1) Capsule PO 
BID (2 times a day) for 3 days.
Disp:*6 Capsule(s)* Refills:*0*
3. ATRIPLA ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
4. Tylenol ___ mg Tablet Sig: ___ Tablets PO three times a day 
as needed for headache: do not take more than 2000mg per 24 
hours.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. influenza B
2. headache, tension

 
Discharge Condition:
stable, on room air 

 
Discharge Instructions:
You were hospitalized for influenza.  You also have a headache, 
likely unrelated to the flu, probably a musculoskeletal injury.  
Please follow up with your doctors as previously ___, and 
call them with questions/concerns.  Return to the hospital with 
fever to 101, mental status changes, persistent diarrhea, cough, 
shortness of breath, or other alarming symptoms.
 
Followup Instructions:
___